US04250085
In a manner analogous to that described in Example 5(A)(iii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-sarcosyl-glycyl-L-norvalyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(N-sarcosyl-glycyl-L-norvalylamino)-ethylphosphonic acid of melting point 255°-257° C. (decomposition); [α]D20 =-64.2°; [α]36520 =-235° (c=0.49% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-sarcosyl-glycyl-L-norvalyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)NCC(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O | C20H31N4O8P
product | (1R)-1-(N-sarcosyl-glycyl-L-norvalylamino)-ethylphosphonic acid | N(C)CC(=O)NCC(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O | C12H25N4O6P
